US07247748B2
b) (S)-{3-[3-(Toluene-4-sulfonyloxy)-butoxy]-phenyl}-acetic acid methyl ester
To a stirring solution of (S)-[3-(3-hydroxy-butoxy)-phenyl]-acetic acid methyl ester (589 mg, 2.47 mmol) and triethylamine (376 mg, 3.71 mmol) in dichloromethane (10 mL) at 0° C. was added p-toluenesulfonyl chloride (944 mg, 4.95 mmol). The reaction was then stirred at RT for 30 min. and refluxed overnight. The reaction mixture was poured into H2O (40 mL) and extracted three times with dichloromethane. The combined organic extracts were dried over sodium sulfate, filtered, and concentrated. The crude product was purified by column chromatography over silica gel (silica gel 60, EM Science) using 15% EtOAc:hexane as eluent to afford 0.61 g (63% yield) of the title compound as an oil: MS (ESI) 393.0 (M+H+).

reactant | (S)-[3-(3-hydroxy-butoxy)-phenyl]-acetic acid methyl ester | 2.47 mmol, 589 mg | COC(CC1=CC(=CC=C1)OCC[C@H](C)O)=O | C13H18O4
reactant | triethylamine | 3.71 mmol, 376 mg | C(C)N(CC)CC | C6H15N
reactant | p-toluenesulfonyl chloride | 4.95 mmol, 944 mg | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | H2O | 40 mL | O | H2O
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | hexane | CCCCCC | C6H14
product | (S)-{3-[3-(Toluene-4-sulfonyloxy)-butoxy]-phenyl}-acetic acid methyl ester | 0.61 g, 63% yield | COC(CC1=CC(=CC=C1)OCC[C@H](C)OS(=O)(=O)C1=CC=C(C=C1)C)=O | C20H24O6S
